data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4585,5230,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]([CH3:21])=[O:22])[n+:23]1[CH3:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]2([C:20]([CH3:21])=[O:22])[N:23]1[CH3:24],water,298.15,39.44920916014099,16.637615379646636
3113,3504,[CH3:10][C:11]#[N+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])=[N:12][C:13]1([CH3:14])[CH3:15],water,298.15,24.273566606878124,-37.2888045466072
394,426,[CH3:9][CH:10]=[N+:11]([CH3:12])[C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:10]([CH3:9])[N:11]([CH3:12])[C:13]3([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19],water,298.15,23.56673157823513,-25.524624820768064
5076,5764,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[o+:20][c:21]([C:22](=[O:23])[O:24][CH3:25])[o:26][c:27]1=[O:28]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21]2([C:22](=[O:23])[O:24][CH3:25])[O:26][C:27]1=[O:28],water,298.15,13.9773777715348,-10.742001462562792
2820,3135,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Br:15])([Br:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C:25](=[O+:26][C-:27]([CH3:28])[CH3:29])[C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Br:15])([Br:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:27]([CH3:28])([CH3:29])[O:26][C:25]2([C:23]([O:22][CH3:21])=[O:24])[C:30](=[O:31])[O:32][CH3:33],water,298.15,28.65618717666424,-40.14421470482068
28,31,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][c-:9]1[o+:10][n:11][o:12][c:13]1=[O:14]>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:9]2([CH3:8])[O:10][N:11]1[O:12][C:13]2=[O:14],water,298.15,20.551995826465863,-27.21132789089373
1026,1119,[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[nH+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22].[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[C:17]1([C:18]#[N:19])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:21](=[O:22])[O:20]1,water,298.15,18.762979564262885,-20.015555178106773
4091,4684,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]([CH3:17])=[C:18]([C:19]#[N:20])[C:21]#[N:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]([C:19]#[N:20])([C:21]#[N:22])[N:16]([CH3:17])[CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,16.109758866667626,-18.337238560776907
3204,3618,[CH3:10][c-:11]1[o+:12][n:13][o:14][c:15]1=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:11]2([CH3:10])[O:12][N:13]1[O:14][C:15]2=[O:16],water,298.15,15.62264654812476,-18.29826935078786
807,874,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[N:16]=[C:17]3[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,7.94708934176987,-58.82803200997467
2551,2831,[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[CH:24]=[NH+:25][C-:26]([C:27]([CH3:28])=[O:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:24]([C:22]([O:21][CH3:20])=[O:23])[NH:25][C:26]2([C:27]([CH3:28])=[O:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,16.433360354896028,-25.03970828603757
2495,2772,[C:1]1#[C:2][C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19][CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:27][NH:28][C:29](=[O:30])[C:31]#[N+:32][CH-:33][C:34]([CH3:35])=[O:36]>>[C:1]12=[C:2]([C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19][CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[CH:33]([C:34]([CH3:35])=[O:36])[N:32]=[C:31]2[C:29]([NH:28][CH3:27])=[O:30],water,298.15,16.004015080977076,-70.28097590611404
